US08492582B2
p-Toluenesulfonylmethyl isocyanide (0.55 g) and potassium carbonate (0.39 g) were added to a methanol (9 mL) suspension of the obtained benzyl 2-(benzyloxy)-5-formylbenzoate (0.93 g), followed by heating to reflux for 1 hour and 40 minutes. The reaction mixture was cooled to room temperature, and then p-toluenesulfonylmethyl isocyanide (0.079 g) and potassium carbonate (0.058 g) were added thereto, followed by heating to reflux for 1 hour and 30 minutes. The reaction mixture was cooled to room temperature, and then water and ethyl acetate were added thereto. The organic layer was separated, washed with a saturated aqueous solution of sodium chloride, and dried over anhydrous magnesium sulfate, and the solvent was evaporated under reduced pressure. The obtained residue was purified by silica gel column chromatography [eluent: 70-50% hexane/ethyl acetate] to obtain 0.56 g of methyl 2-(benzyloxy)-5-(oxazol-5-yl)benzoate as a light yellow solid.

reactant | p-Toluenesulfonylmethyl isocyanide | 0.55 g | C1(=CC=C(C=C1)S(=O)(=O)C[N+]#[C-])C | C9H9NO2S
reactant | potassium carbonate | 0.39 g | C([O-])([O-])=O.[K+].[K+]
reactant | methanol | 9 mL | CO | CH4O
reactant | benzyl 2-(benzyloxy)-5-formylbenzoate | 0.93 g | C(C1=CC=CC=C1)OC1=C(C(=O)OCC2=CC=CC=C2)C=C(C=C1)C=O | C22H18O4
reactant | p-toluenesulfonylmethyl isocyanide | 0.079 g | C1(=CC=C(C=C1)S(=O)(=O)C[N+]#[C-])C | C9H9NO2S
reactant | potassium carbonate | 0.058 g | C([O-])([O-])=O.[K+].[K+]
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | water | O | H2O
product | methyl 2-(benzyloxy)-5-(oxazol-5-yl)benzoate | 0.56 g | C(C1=CC=CC=C1)OC1=C(C(=O)OC)C=C(C=C1)C1=CN=CO1 | C18H15NO4
